US05112829
1,3,9,10,11,12-Hexahydro-3-phenyl-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one
Methyl α-[(9-amino-1,2,3,4-tetrahydroacridin-8-yl)oxy]phenylacetate hydrate (5.26 g) was dissolved dry tetrahydrofuran (100 ml) and potassium tert-butoxide (1.70 g) was added. After stirring for 1 hr, saturated ammonium chloride solution (100 ml) was added, and stirring was continued for 30 min. The reaction mixture was evaporated and the solid was collected and washed with water. Recrystallization from dimethylformamide-water gave 3.69 g (77.0%) of product, mp 250° C. (dec).

reactant | Methyl α-[(9-amino-1,2,3,4-tetrahydroacridin-8-yl)oxy]phenylacetate hydrate | 5.26 g | O.NC=1C2=C(C=CC=C2N=C2CCCCC12)OC(C(=O)OC)C1=CC=CC=C1
reactant | potassium tert-butoxide | 1.70 g | CC(C)([O-])C.[K+]
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1,3,9,10,11,12-Hexahydro-3-phenyl-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one | 3.69 g, 77.0% | C1(=CC=CC=C1)C1OC2=C3C(NC1=O)=C1CCCCC1=NC3=CC=C2 | C21H18N2O2
